US05504244
First, 3-cyanobenzoic acid (20 grams) is heated under reflux for 1.5 hours in thionyl chloride (100 ml). The excess thionyl chloride is removed by distillation. The crude acid chloride which remains is diluted with nitrobenzene (200 ml). Anhydrous aluminum chloride (21.75 g) is added and the mixture cooled in an ice bath. Then, 1-butoxy-3-methoxybenzene (20 g, 0.11 mole) is added in one portion. The reaction mixture is stirred at room temperature overnight and then heated to 105° C. for 2 hours. The resulting mixture is cooled and poured into a mixture of ice water (1000 ml) and concentrated hydrochloric acid (100 ml). The product is extracted with ether (3×300 mls). The extract was dried over MgSO4, filtered and evaporated to dryness. The residual dark oil is chromatographed on silica gel (hexane:ether at 80:20) to yield 3-(4-butoxy-2-hydroxybenzoyl)benzonitrile (1.8 g) followed by 3-(2-hydroxy-4-methoxybenzoyl)benzonitrile (2.75 g). The 3-(4-butoxy-2-hydroxybenzoyl)benzonitrile thereby obtained, is heated under reflux in a mixture of acetic acid (18 g) and concentrated hydrochloric acid (18 g) for a hours. The resulting mixture is diluted with water (100 ml) and extracted with methylene chloride (3×50 ml). The extract is dried over magnesium sulfate, filtered, and evaporated to dryness. The residue is recrystallized from heptane/ethanol to yield 3-(4-butoxy-2-hydroxybenzoyl)benzoic acid (1.13 g), m.p. 175° C.

reactant | 3-cyanobenzoic acid | 20 grams | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | 1-butoxy-3-methoxybenzene | 0.11 mole, 20 g | C(CCC)OC1=CC(=CC=C1)OC | C11H16O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(4-butoxy-2-hydroxybenzoyl)benzonitrile | 1.8 g | C(CCC)OC1=CC(=C(C(=O)C=2C=C(C#N)C=CC2)C=C1)O | C18H17NO3
